US08895733B2
Intermediate 104: 3-Cyano-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester
To 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (300 mg, 1.33 mmol) was added DME (9 mL) and EtOH (0.2 mL). The mixture was cooled to 0 C when TOSMIC (530 mg, 2.65 mmol) and potassium tert-butoxide (609 mg, 5.2 mmol) were added. The mixture was stirred to room temperature and then heated at 50 C for 18 h. After this time the reaction was evaporated and loaded onto a silica column and eluted with heptane-10% to 30% ethyl actetate to give the title compound (216 mg, 69%). Method B HPLC-MS: MH+ requires m/z=237. Found: m/z=237, Rt=1.35 min (86%).

reactant | 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 1.33 mmol, 300 mg | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
reactant | DME | 9 mL | COCCOC | C4H10O2
reactant | TOSMIC | 2.65 mmol, 530 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | potassium tert-butoxide | 5.2 mmol, 609 mg | CC(C)([O-])C.[K+]
solvent | EtOH | 0.2 mL | CCO | C2H6O
product | 3-Cyano-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 216 mg, 69% | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)C#N | C13H20N2O2
